### PR TITLE
[Merged by Bors] - feat(CategoryTheory): composition of profunctors

### PR DESCRIPTION
**Pull request by dagurtomas**
---

- [x] depends on: #38085 
- [x] depends on: #38382

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Profunctor/Comp.lean [hunk 1]
```diff
@@ -0,0 +1,394 @@
...
+section Associator
+
+variable {C D E F : Type u} [Category* C] [Category* D] [Category* E] [Category* F]
+  (P : Profunctor.{max w u} C D) (Q : Profunctor.{max w u} D E) (R : Profunctor.{max w u} E F)
+
+open TypeCat Limits Types Functor
+
+set_option backward.isDefEq.respectTransparency false in
+attribute [local simp] Types.chosenCoend_def chosenCoend.map_apply in
+lemma associatorComponents_aux₁ {X : C} {Y : Fᵒᵖ} {e e' : E} {d d' : D}
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Profunctor/Comp.lean]: Is there a way to spin things so that this one (and the one below) is private?
(I can get that to work by replacing the `exact associatorComponents_aux₁ _ _ _ h₁` with `exact (by exact associatorComponents_aux₁ _ _ _ h₁)` in the def of associator component, but this is quite ugly.

File: Mathlib/CategoryTheory/Profunctor/Bicategory.lean [hunk 2]
```diff
@@ -0,0 +1,83 @@
...
+
+/-- The bicategory of categories where the 1-morphisms are profunctors. -/
+@[nolint checkUnivs]
+structure ProfCat where
+  of ::
+  /-- The objects of the bicategory are types... -/
+  obj : Type u
+  /-- ... bundled with a category instance. -/
+  [str : Category.{v} obj]
+
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Profunctor/Bicategory.lean]:
```suggestion

initialize_simps_projections ProfCat (-str)

```

for safety

File: Mathlib/CategoryTheory/Profunctor/Bicategory.lean [hunk 3]
```diff
@@ -0,0 +1,83 @@
...
+  symm
+  apply Quot.sound
+  rw [coendRel_iff]
+  exact ⟨g, by simp⟩
+
+end
+
+end Profunctor
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Profunctor/Bicategory.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/Profunctor/Bicategory.lean [hunk 4]
```diff
@@ -0,0 +1,83 @@
...
+Copyright (c) 2026 Dagur Asgeirsson. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Dagur Asgeirsson
+-/
+module
+
+public import Mathlib.CategoryTheory.Profunctor.Comp
+
+/-!
+
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Profunctor/Bicategory.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/Profunctor/Comp.lean [hunk 5]
```diff
@@ -0,0 +1,394 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Dagur Asgeirsson
+-/
+module
+
+public import Mathlib.CategoryTheory.Limits.Types.End
+public import Mathlib.CategoryTheory.Profunctor.Basic
+
+/-!
+
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Profunctor/Comp.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/Profunctor/Bicategory.lean [hunk 6]
```diff
@@ -0,0 +1,83 @@
...
+# The Profunctor Bicategory
+
+This file defines the bicategory `ProfCat` whose objects are categories and whose 1-morphisms are
+profunctors.
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Profunctor/Bicategory.lean]: Can you add a mention/link to the file where the composition is defined?

File: Mathlib/CategoryTheory/Profunctor/Bicategory.lean [hunk 7]
```diff
@@ -0,0 +1,83 @@
...
+  apply Quot.sound
+  rw [coendRel_iff]
+  exact ⟨g, by simp⟩
+
+end
+
+end Profunctor
+
+set_option backward.isDefEq.respectTransparency false in
+instance : Bicategory ProfCat.{u, u} where
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Profunctor/Bicategory.lean]: We need a ton more API than just this bicategory structure: how much can `@[simps!]` already generate?

File: Mathlib/CategoryTheory/Profunctor/Comp.lean (hunk 1 above)
Comment (dagurtomas) [reply Mathlib/CategoryTheory/Profunctor/Comp.lean]: `exact by exact` feels like a hack (why doesn't it just do the same thing as `exact`?). But I agree these should ideally be private. I don't know a good solution

**Comment by dagurtomas** [comment]
Moved the bicategory to a followup PR: #39619

File: Mathlib/Logic/Relation.lean [hunk 8]
```diff
@@ -799,6 +799,24 @@ theorem mono {r p : α → α → Prop} (hrp : ∀ a b, r a b → p a b) (h : Eq
...
+@[simp]
+lemma idempotent {α : Type*} (r : α → α → Prop) : EqvGen (EqvGen r) = EqvGen r := by
+  ext x y
+  refine ⟨fun h ↦ ?_, fun h ↦ EqvGen.rel _ _ h⟩
+  induction h with
+  | rel => assumption
+  | refl => exact EqvGen.refl _
+  | symm => apply EqvGen.symm; assumption
+  | trans => apply EqvGen.trans <;> assumption
+
```
Comment (adamtopaz) [inline Mathlib/Logic/Relation.lean]: Should these be stated for `Sort*`?

**Comment by adamtopaz** [comment]
Please make sure to update the "future work" section in the docs of `Profunctor/Basic.lean`.

File: Mathlib/CategoryTheory/Profunctor/Comp.lean [hunk 9]
```diff
@@ -0,0 +1,393 @@
...
+@[simp]
+lemma whiskerRight_id {P Q : Profunctor.{u} C D} (f : P ⟶ Q) :
+    whiskerRight (Profunctor.id (C := D)) f =
+      (P.rightUnitor).hom ≫ f ≫ (Q.rightUnitor).inv := by
+  ext _ _ ⟨_, _, g⟩
+  dsimp [chosenCoend.map_apply, Quot.map]
+  symm
+  apply Quot.sound
+  rw [Types.coendRel_iff]
+  exact ⟨g, by simp⟩
```
Comment (adamtopaz) [inline Mathlib/CategoryTheory/Profunctor/Comp.lean]:
```suggestion
  rw [← cancel_mono (Q.rightUnitor).hom]
  ext _ _ ⟨_, _, g⟩
  simp [chosenCoend.map_apply, -types_comp_apply]
```

File: Mathlib/CategoryTheory/Profunctor/Comp.lean [hunk 10]
```diff
@@ -0,0 +1,393 @@
...
+      dsimp at h₂
+      dsimp [Quot.map]
+      rw [Quot.eq] at h₂ ⊢
+      exact associatorComponents_aux₂ _ _ _ h₂
+  hom_inv_id := by
+    ext ⟨_, ⟨_, _, _⟩, _⟩
+    dsimp [Quot.map]
+  inv_hom_id := by
+    ext ⟨_, _, ⟨_, _, _⟩⟩
+    dsimp [Quot.map]
```
Comment (adamtopaz) [inline Mathlib/CategoryTheory/Profunctor/Comp.lean]: Generated with the help of gpt-5.5.

```suggestion
set_option backward.isDefEq.respectTransparency false in
attribute [local simp] Types.chosenCoend_def chosenCoend.map_apply in
/-- The objectwise components of the associator isomorphism
`(P.comp Q).comp R ≅ P.comp (Q.comp R)`. -/
@[simps hom inv]
def associatorComponents (X : C) (Y : Fᵒᵖ) :
    (P.comp Q |>.comp R |>.obj X |>.obj Y) ≅ P.comp (Q.comp R) |>.obj X |>.obj Y where
  hom := by
    refine ↾Quot.lift (fun ⟨e, x, r⟩ ↦
      Quot.map (fun ⟨d, p, q⟩ ↦ ⟨d, p, Quot.mk _ ⟨e, q, r⟩⟩) ?_ x) ?_
    · rintro ⟨d, p, q⟩ ⟨d', p', q'⟩ ⟨f, x⟩
      rw [coendRel_iff]
      exact ⟨f, by simp⟩
    · rintro ⟨e, _, _⟩ ⟨e', _, _⟩ ⟨f, ⟨x, r⟩⟩
      refine Quot.inductionOn x ?_
      rintro ⟨d, p, q⟩
      dsimp [Quot.map]
      simp only [map_id, NatTrans.id_app, types_id_apply]
      -- First use the inner coend condition, then apply the outer quotient constructor.
      let outer (x : ((Q.comp R).obj d).obj Y) :=
        chosenCoend.ι (P.compDiagram (Q.comp R) X (unop Y)) d (p, x)
      have inner_relation :
          chosenCoend.ι (Q.compDiagram R d (unop Y)) e (((Q.obj d).map f.op q), r) =
            chosenCoend.ι (Q.compDiagram R d (unop Y)) e' (q, (R.map f).app Y r) := by
        simpa [types_comp_apply, Prod.map] using
          types_congr_hom
            (chosenCoend.condition (F := Q.compDiagram R d (unop Y)) (i := e) (j := e') f)
            (q, r)
      exact congrArg outer inner_relation
  inv := by
    refine ↾Quot.lift (fun ⟨d, p, x⟩ ↦
        Quot.map (fun ⟨e, q, r⟩ ↦ ⟨e, Quot.mk _ ⟨d, p, q⟩, r⟩) ?_ x) ?_
    · rintro ⟨e, q, r⟩ ⟨e', q', r'⟩ ⟨f, x⟩
      rw [coendRel_iff]
      use f
      simp
    · rintro ⟨d, _, _⟩ ⟨d', _, _⟩ ⟨f, ⟨p, x⟩⟩
      refine Quot.inductionOn x ?_
      rintro ⟨e, q, r⟩
      dsimp [Quot.map]
      simp only [map_id, types_id_apply]
      -- First use the inner coend condition, then apply the outer quotient constructor.
      let outer (x : ((P.comp Q).obj X).obj (op e)) :=
        chosenCoend.ι ((P.comp Q).compDiagram R X (unop Y)) e (x, r)
      have inner_relation :
          chosenCoend.ι (P.compDiagram Q X e) d (((P.obj X).map f.op p), q) =
            chosenCoend.ι (P.compDiagram Q X e) d' (p, (Q.map f).app _ q) := by
        simpa [types_comp_apply, Prod.map] using
          types_congr_hom
            (chosenCoend.condition (F := P.compDiagram Q X e) (i := d) (j := d') f)
            (p, q)
      exact congrArg outer inner_relation
  hom_inv_id := by
    ext ⟨_, ⟨_, _, _⟩, _⟩
    dsimp [Quot.map]
  inv_hom_id := by
    ext ⟨_, _, ⟨_, _, _⟩⟩
    dsimp [Quot.map]
```

File: Mathlib/CategoryTheory/Profunctor/Comp.lean [hunk 11]
```diff
@@ -0,0 +1,393 @@
...
+attribute [local simp] Types.chosenCoend_def in
+@[simp]
+lemma id_whiskerLeft {P Q : Profunctor.{u} C D} (f : P ⟶ Q) :
+    (Profunctor.id (C := C)).whiskerLeft f =
+      (P.leftUnitor).hom ≫ f ≫ (Q.leftUnitor).inv := by
+  ext _ _ ⟨_, g, _⟩
+  dsimp [chosenCoend.map_apply, Quot.map]
+  apply Quot.sound
+  rw [Types.coendRel_iff]
+  exact ⟨g, by simp [← comp_apply, -types_comp_apply]⟩
```
Comment (adamtopaz) [inline Mathlib/CategoryTheory/Profunctor/Comp.lean]:
```suggestion
  rw [← cancel_mono (Q.leftUnitor).hom]
  ext _ _ ⟨_, g, _⟩
  simp [-types_comp_apply]
```

File: Mathlib/Logic/Relation.lean [hunk 12]
```diff
@@ -802,6 +802,24 @@ theorem mono {r p : α → α → Prop} (hrp : ∀ a b, r a b → p a b) (h : Eq
...
+@[simp]
+lemma idempotent (r : α → α → Prop) : EqvGen (EqvGen r) = EqvGen r := by
+  ext x y
+  refine ⟨fun h ↦ ?_, fun h ↦ EqvGen.rel _ _ h⟩
+  induction h with
+  | rel => assumption
+  | refl => exact EqvGen.refl _
+  | symm => apply EqvGen.symm; assumption
+  | trans => apply EqvGen.trans <;> assumption
+
```
Comment (dagurtomas) [inline Mathlib/Logic/Relation.lean]: splice-bot

Comment (dagurtomas) [inline Mathlib/Logic/Relation.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/Profunctor/Comp.lean [hunk 13]
```diff
@@ -0,0 +1,343 @@
...
+
+* `comp` : Composition of profunctors.
+* `whiskerLeft` : Left whiskering of a natural transformation of profunctors.
+* `whiskerRight` : Right whiskering of a natural transformation of profunctors.
+* `leftUnitor` : The left unitor isomorphism `Profunctor.id.comp P ≅ P`.
+* `rightUnitor` : The right unitor isomorphism `P.comp Profunctor.id ≅ P`.
+* `associator` : The associator isomorphism `(P.comp Q).comp R ≅ P.comp (Q.comp R)`.
+
+These satisfy the coherence laws for a bicategory, see the file
+`CategoryTheory.Profunctor.Bicategory`.
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Profunctor/Comp.lean]:
```suggestion
`CategoryTheory.Profunctor.Bicategory` (to be added in a future PR: #39619).
```

File: Mathlib/CategoryTheory/Profunctor/Comp.lean [hunk 14]
```diff
@@ -0,0 +1,343 @@
...
+namespace Profunctor
+
+section Composition
+
+section Definition
+
+variable {C : Type*} [Category* C] {D : Type u} [Category.{v} D] {E : Type*} [Category* E]
+
+/-- The bifunctor whose coend defines the composite of two profunctors. -/
+@[simps! obj_obj obj_map map_app]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Profunctor/Comp.lean]:
```suggestion
@[implicit_reducible, simps! obj_obj obj_map map_app]
```
I think all of the functors (and in particular the profunctors) defined here should be `implicit_reducible`.

File: Mathlib/CategoryTheory/Profunctor/Comp.lean [hunk 15]
```diff
@@ -0,0 +1,343 @@
...
+section LeftUnitor
+
+variable {C : Type u} [Category.{u} C] {D : Type u} [Category* D]
+
+open Limits TypeCat
+
+set_option backward.defeqAttrib.useBackward true in
+set_option backward.isDefEq.respectTransparency false in
+/-- The left unitor isomorphism `Profunctor.id.comp P ≅ P` for composition of profunctors. -/
+@[simps! hom_app_app inv_app_app]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Profunctor/Comp.lean]: The lemmas this `simps!` generate don’t look very good IMO. Do we really want to expose this `Quot.lift`?
I think instead you could add lemmas that characterizes the `hom_app_app` field when applied to a suitable `Quot.mk`.

This comment also applies for the simp lemmas attached to the right unitors and associators.

**Comment by riccardobrasca** [comment]
The new file look quite slow to me: in particular `def associatorComponents` (add an empty line before the declaration to see it), and indeed the produced olean is *huge*, more than 17 MB, I think it would be the largest in mathlib. It seems that extracting the `hom` and `inv` fields like this
```lean
def associatorComponents (X : C) (Y : Fᵒᵖ) :
    (P.comp Q |>.comp R |>.obj X |>.obj Y) ≅ P.comp (Q.comp R) |>.obj X |>.obj Y where
  hom := associatorHom P Q R X Y
  inv := associatorInv P Q R X Y
  hom_inv_id := by
    ext ⟨_, ⟨_, _, _⟩, _⟩
    dsimp [associatorHom, associatorInv, Quot.map]
  inv_hom_id := by
    ext ⟨_, _, ⟨_, _, _⟩⟩
    dsimp [associatorHom, associatorInv, Quot.map]
```
makes the file quite faster.

**Comment by dagurtomas** [comment]
Done, this speeds the file up considerably and the olean is down to less than 1MB (according to codex)

**Comment by riccardobrasca** [comment]
Is there a reason why you are not using `reassoc`?

File: Mathlib/CategoryTheory/Profunctor/Comp.lean [hunk 16]
```diff
@@ -0,0 +1,390 @@
...
+@[simp]
+lemma comp_whiskerRight {R : Profunctor.{max u w} C D} (f : P ⟶ Q) (g : Q ⟶ R)
+    (S : Profunctor.{max u w} D E) :
+    whiskerRight S (f ≫ g) = whiskerRight S f ≫ whiskerRight S g := by
+  ext _ _ ⟨_, _, _⟩
+  rfl
+
+end Right
+
+@[simp]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Profunctor/Comp.lean]:
```suggestion
@[reassoc (attr := simp)]
```

**Comment by dagurtomas** [comment]
> Is there a reason why you are not using `reassoc`?

I added a reassoc tag to `whisker_exchange`, is that what your comment referred to? Or did I miss some other lemma?

**Comment by riccardobrasca** [comment]
> > Is there a reason why you are not using `reassoc`?
> 
> I added a reassoc tag to `whisker_exchange`, is that what your comment referred to? Or did I miss some other lemma?

I didn't have a single lemma in mind, I was just puzzled that `reassoc` was never used.

Anyway I tried to make it even faster, doing another split, and it seems to me that
```lean
/-- Aux: the map on representatives underlying `associatorHom`. -/
def associatorHomFun (X : C) (Y : Fᵒᵖ) (e : E) (r : (R.obj e).obj (op (unop Y))) :
    ((j : D) × ((P.compDiagram Q X e).obj (op j)).obj j) →
      ((j : D) × ((P.compDiagram (Q.comp R) X (unop Y)).obj (op j)).obj j) :=
  fun ⟨d, p, q⟩ ↦ ⟨d, p, Quot.mk _ ⟨e, q, r⟩⟩

set_option backward.defeqAttrib.useBackward true in
set_option backward.isDefEq.respectTransparency false in
attribute [local simp] Types.chosenCoend_def chosenCoend.map_apply in
/-- Aux: `associatorHomFun` respects the coend relation. -/
lemma associatorHomFun_rel (X : C) (Y : Fᵒᵖ) (e : E) (r : (R.obj e).obj (op (unop Y))) :
    ∀ ⦃a b : (j : D) × ((P.compDiagram Q X e).obj (op j)).obj j⦄,
      coendRel (P.compDiagram Q X e) a b →
        coendRel (P.compDiagram (Q.comp R) X (unop Y))
          (associatorHomFun P Q R X Y e r a) (associatorHomFun P Q R X Y e r b) := by
  rintro ⟨d, p, q⟩ ⟨d', p', q'⟩ ⟨f, x⟩
  rw [coendRel_iff]
  exact ⟨f, by simp [associatorHomFun]⟩

set_option backward.defeqAttrib.useBackward true in
set_option backward.isDefEq.respectTransparency false in
attribute [local simp] Types.chosenCoend_def chosenCoend.map_apply in
/-- The forward map of the objectwise associator for composition of profunctors. -/
def associatorHom (X : C) (Y : Fᵒᵖ) :
    (((P.comp Q).comp R).obj X).obj Y ⟶ ((P.comp (Q.comp R)).obj X).obj Y := by
  refine ↾Quot.lift (fun ⟨e, x, r⟩ ↦
    Quot.map (associatorHomFun P Q R X Y e r) (associatorHomFun_rel P Q R X Y e r) x) ?_
  rintro ⟨e, _, _⟩ ⟨e', _, _⟩ ⟨f, ⟨x, r⟩⟩
  refine Quot.inductionOn x ?_
  rintro ⟨d, p, q⟩
  dsimp [Quot.map, associatorHomFun]
  simp only [Functor.map_id, NatTrans.id_app, types_id_apply]
  -- First use the inner coend condition, then apply the outer quotient constructor.
  let outer (x : ((Q.comp R).obj d).obj Y) :=
    chosenCoend.ι (P.compDiagram (Q.comp R) X (unop Y)) d (p, x)
  exact congrArg outer
    (types_congr_hom (chosenCoend.condition (F := Q.compDiagram R d (unop Y)) f) (q, r))
```
and
```lean
/-- Aux: the map on representatives underlying `associatorInv`. -/
def associatorInvFun (X : C) (Y : Fᵒᵖ) (d : D) (p : (P.obj X).obj (op d)) :
    ((j : E) × ((Q.compDiagram R d (unop Y)).obj (op j)).obj j) →
      ((j : E) × (((P.comp Q).compDiagram R X (unop Y)).obj (op j)).obj j) :=
  fun ⟨e, q, r⟩ ↦ ⟨e, Quot.mk _ ⟨d, p, q⟩, r⟩

set_option backward.defeqAttrib.useBackward true in
set_option backward.isDefEq.respectTransparency false in
attribute [local simp] Types.chosenCoend_def chosenCoend.map_apply in
/-- Aux: `associatorInvFun` respects the coend relation. -/
lemma associatorInvFun_rel (X : C) (Y : Fᵒᵖ) (d : D) (p : (P.obj X).obj (op d)) :
    ∀ ⦃a b : (j : E) × ((Q.compDiagram R d (unop Y)).obj (op j)).obj j⦄,
      coendRel (Q.compDiagram R d (unop Y)) a b →
        coendRel ((P.comp Q).compDiagram R X (unop Y))
          (associatorInvFun P Q R X Y d p a) (associatorInvFun P Q R X Y d p b) := by
  rintro ⟨e, q, r⟩ ⟨e', q', r'⟩ ⟨f, x⟩
  rw [coendRel_iff]
  use f
  simp [associatorInvFun]

set_option backward.defeqAttrib.useBackward true in
set_option backward.isDefEq.respectTransparency false in
attribute [local simp] Types.chosenCoend_def chosenCoend.map_apply in
/-- The inverse map of the objectwise associator for composition of profunctors. -/
def associatorInv (X : C) (Y : Fᵒᵖ) :
    ((P.comp (Q.comp R)).obj X).obj Y ⟶ (((P.comp Q).comp R).obj X).obj Y := by
  refine ↾Quot.lift (fun ⟨d, p, x⟩ ↦
      Quot.map (associatorInvFun P Q R X Y d p) (associatorInvFun_rel P Q R X Y d p) x) ?_
  rintro ⟨d, _, _⟩ ⟨d', _, _⟩ ⟨f, ⟨p, x⟩⟩
  refine Quot.inductionOn x ?_
  rintro ⟨e, q, r⟩
  dsimp [Quot.map, associatorInvFun]
  simp only [Functor.map_id, types_id_apply]
  -- First use the inner coend condition, then apply the outer quotient constructor.
  let outer (x : ((P.comp Q).obj X).obj (op e)) :=
    chosenCoend.ι ((P.comp Q).compDiagram R X (unop Y)) e (x, r)
  exact congrArg outer
    (types_congr_hom (chosenCoend.condition (F := P.compDiagram Q X e) f) (p, q))
```
(plus the relevant fixes later, a couple of lines) help quite a lot.

**Comment by dagurtomas** [comment]
Done

File: Mathlib/CategoryTheory/Profunctor/Comp.lean [hunk 17]
```diff
@@ -0,0 +1,424 @@
...
+set_option backward.isDefEq.respectTransparency false in
+attribute [local simp] Types.chosenCoend_def in
+@[simp]
+lemma whiskerRight_id {P Q : Profunctor.{u} C D} (f : P ⟶ Q) :
+    whiskerRight (Profunctor.id (C := D)) f =
+      (P.rightUnitor).hom ≫ f ≫ (Q.rightUnitor).inv := by
+  rw [← cancel_mono (Q.rightUnitor).hom]
+  ext _ _ ⟨_, _, g⟩
+  simp [chosenCoend.map_apply]
+
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Profunctor/Comp.lean:256]:
```suggestion
```

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

**Comment by dagurtomas** [comment]
Thanks for the reviews!

bors merge
